Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transferred from OSH, intubated 
 
Major Surgical or Invasive Procedure:
Tracheostomy/Gastrostomy
 
History of Present Illness:
This is an ___ (not ___) yo M with
a history of CAD s/p MI ___ years prior, HLD, likely HTN and s/p
recent retinal surgery on the left who is transferred from
___ intubated and sedated for a higher level of
care. His wife provides the history, and she reports that he was
in his USOH until this afternoon around noon. At baseline he is
completely "healthy" and independent for all ADLs. He had been
nauseous for a few days. He was loading some dishes into the
dishwasher and suddenly fell backwards at around 12:30PM. Then 
he
walked out to take the trash out and couldn't climb the two 
steps
to come back into the house. Later, his wife sat him down 
because
his speech became garbled and he couldn't really understand what
his wife was saying. EMS was called because his wife was
concerned for a TIA. He was taken to an OSH, and was noted to be
nauseous and vomiting en route in the ambulance. While at this
OSH, he was noted to be hypertensive. He was given labetalol IV,
fosphenytoin 1g load and zofran and intubated for airway
protection. He had a NCHCT which revealed a left sided basal
ganglia bleed, and was thus transferred to the ___ for a 
higher
level of care. The wife denies that the patient is being
anticoagulated or ever having been treated for atrial
fibrillation. 

 
Past Medical History:
- HLD
- HTN: wife reports that patient has had a history of having
relatively high blood pressures 
- Recent eye surgery on left: Ripple retina procedure? Wife
reports that the patient may be on atropine eye drops
- CAD: s/p MI at age ___ 
- Tobacco abuse: smoked for ___ years, quit following his MI 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Physical Exam on Admission:
Vitals: AF, 149/76, HR ___, 96% on ETT FiO2 40%  
General: Intubated, sedated 
HEENT: Eyes open at baseline, no obvious oropharyngeal lesions
noted externally 
Neck: Supple, no masses or lymphadenopathy 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities:warm and well perfused
Skin: no rashes or lesions noted.
 
Neurologic Examination (patient is currently receiving small
boluses of propofol/fentanyl for sedation and intubation):
- Eyes closed at baseline. Making some nonpurposeful movements 
of
the left extremities, right arm and leg are visibly less active 
- Left pupil is 5mm and nonreactive, right is 3-2mm reactive
briskly 
- No roving eye movements or gaze deviation or nystagmus noted 
- Breathing over the vent 
- Positive VORs and corneals bilaterally 
- RUE extensor postures to pain, LUE localizes to sternal rub 
- RLE extends to painful stimulus, LLE withdraws nicely 
- Right toe is upgoing 

Physical Exam on Discharge:
vital signs: Tmax 100.7, Tc 99.3, BP 142/70 (114-165/55-86), HR 
89 (72-112), RR 21 (___), 99% on trach with 40% FiO2
GEN: elderly male lying in bed asleep, NAD
HEENT: trach in place, OP clear
CV: RRR
PULM: central congestion, mild crackles at L base
ABD: soft, NT, ND
EXT: trace, non-pitting edema at ankles bilaterally.

Neuro Exam:
- opens eyes spontaneously
- L pupil large (5mm) and minimally reactive, R pupil reactive 
3->2mm
- looks to the left, but not to the R past midline
- tracks to the left, but not to the right
- moves LUE and LLE spontaneously and sometimes purposefully
- very minimally and only occasionally withdraws RUE and RLE to 
noxious stim
- toes upgoing bilaterally
 
Pertinent Results:
Labs on Admission: 

___ 03:34PM BLOOD WBC-9.6 RBC-3.88* Hgb-13.7* Hct-39.2* 
MCV-101* MCH-35.3* MCHC-34.9 RDW-13.5 Plt ___
___ 03:34PM BLOOD Neuts-75.1* ___ Monos-3.6 Eos-0.8 
Baso-0.2
___ 03:34PM BLOOD ___ PTT-19.8* ___
___ 03:34PM BLOOD Glucose-169* UreaN-16 Creat-1.1 Na-138 
K-3.9 Cl-99 HCO3-24 AnGap-19
___ 03:35AM BLOOD ALT-21 AST-25 LD(LDH)-211 CK(CPK)-75 
AlkPhos-53 TotBili-0.5
___ 06:31PM BLOOD CK-MB-2 cTropnT-<0.01
___ 03:35AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:31PM BLOOD Calcium-9.1 Phos-3.2 Mg-1.9
___ 02:52AM BLOOD calTIBC-195* VitB12-265 Folate-14.7 
Ferritn-432* TRF-150*
___ 03:35AM BLOOD %HbA1c-6.2* eAG-131*
___ 03:35AM BLOOD Triglyc-132 HDL-56 CHOL/HD-2.8 LDLcalc-77
___ 04:09PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-150 Ketone-40 Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 04:09PM URINE Color-Straw Appear-Clear Sp ___
___ 04:09PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

Labs on Discharge:

___ 04:02AM BLOOD WBC-10.2 RBC-2.64* Hgb-9.2* Hct-26.6* 
MCV-101* MCH-34.7* MCHC-34.4 RDW-13.8 Plt ___
___ 04:02AM BLOOD Glucose-136* UreaN-25* Creat-0.7 Na-140 
K-4.0 Cl-103 HCO3-27 AnGap-14
___ 04:02AM BLOOD Calcium-8.3* Phos-3.1 Mg-2.4

Microbiology: 
___ 2:32 pm SPUTUM      Source: Endotracheal. 
      MODERATE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 
___ 3:00 pm BRONCHOALVEOLAR LAVAGE      LLL BAL. 
      >100,000 ORGANISMS/ML. Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    ~1000/ML.  FURTHER WORKUP ON 
REQUEST ONLY. 
___ 3:00 pm SPUTUM
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    RARE GROWTH. 

URINE CULTURE (Final ___:    NO GROWTH. 
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

EEG ___: This telemetry captured no pushbutton 
activations. The EEG 
record showed a slow and encephalopathic background throughout. 
There 
were no prominent focal abnormalities, but encephalopathies may 
obscure 
focal findings. There were no epileptiform features or 
electrographic 
seizures. 

Neuroimaging: 
NCHCT (___): 3.5-cm acute left basal ganglia hemorrhage, 
with intraventricular extension. Interval increase in size since 
the prior study. Mild increase in the edema and rightward shift 
of midline structures. 

CT C spine (___): No acute cervical spine fracture. 
Multilevel degenerative changes of the cervical spine, without 
evidence of significant spinal canal stenosis. 
  
NCHCT (___): Unchanged acute left basal ganglia 
intraparenchymal hemorrhage with redistribution of blood into 
the bilateral occipital horns. No new areas of hemorrhage. 

EEG ___: IMPRESSION: This telemetry captured no pushbutton 
activations. It showed a slow encephalopathic background 
throughout. Medications, metabolic disturbances, and infection 
are among the most common causes. There were no areas of 
prominent focal slowing, but encephalopathies may obscure focal 
findings. There were no epileptiform features or electrographic 
seizurs. 

CT HEAD ___: IMPRESSION: 
1. The left basal ganglia hematoma is slightly decreased in 
size, though the associated mass effect is unchanged. No new 
hemorrhage. 
2. Decreased intraventricular blood. Stable ventricular size. 

 
Brief Hospital Course:
Mr. ___ arrived to the ___ intubated and sedated for a higher 
level of care for an intraparenchymal bleed into what was 
initially reported as the left basal ganglia, later confirmed to 
be largely thalamic in nature. On examination in the ED, he was 
found to have an atropine-related fixed and dilated left pupil, 
a dense right hemiparesis, spontaneous nonpurposeful movements 
of the left arm and would not follow commands or open his eyes. 

He was admitted to the neuro-ICU for close monitoring and q1hr 
neuro checks. His blood pressures have since been controlled 
under SBP<160 with PRN hydralazine/labetalol. A repeat NCHCT 
performed the following day showed no difference in bleed 
volume. 

He remained intubated for the next several days. The concern was 
that he would not be able to tolerate his secretions and that he 
was not following commands, both signs that extubation would be 
unsafe. His wife confirmed that he was a full code, but did 
communicate his wishes that he would not want to continue life 
"if he were a vegetable". In the days following, he started to 
develop low grade fevers, an elevated WBC and thick secretions 
from his ETT suction. Out of concern for a community acquired 
pneumonia ___ possible aspiration) he was initiated on IV 
Ceftriaxone. His sputum and BAL cultures only grew out GNRs and 
respiratory commensal flora. Initiating antibiotic therapy did 
reduce his WBC and improve his fevers. His blood pressures 
remained under control, especially after the addition of a low 
dose of ACE inhibitor. 

We had a family meeting on ___ where we discussed (with 
his extended family and wife) that he has a long road to 
recovery, and that should be able to survive the various 
complications that may occur (e.g., DVTs, infections, etc.), he 
may be able to regain a greater degree of consciousness and 
appreciate his surroundings. We discussed how his weakness could 
improve and he may not be aphasic. We emphasized the long road 
to recovery. On ___, the decision was finally made to 
pursue tracheostomy and PEG tube placement in an attempt 
expedite his transition out of the ICU and to rehabilitation. 

He was continued on ceftriaxone for presumed CAP, but he 
continued to spike fevers through this.  His sputum Cx initially 
grew GNRs, but these cleared.  However, his CXR continued to 
show a consolidation that was worsening at the LLL base.  He was 
started on vancomycin and cefepime on ___ and his WBC and fever 
curve trended down.  He will need to complete a 14 day course 
for presumed VAP, which will stop on ___.  In addition, on 
___ he had a head CT done that showed that his bleed was 
stable, and so he was started on ASA 81mg QD.

PENDING LABS:
Blood culture ___
Sputum culture ___

TRANSITIONAL CARE ISSUES:
We have been unable to ascertain who did patient's recent ripple 
retina procedure.  This will need to be determined, and they 
will need to be contacted to determine if patient requires 
specific eye drops for his post-surgical recovery.  His wife 
thought he may have been on atropine, but wasn't sure, and 
therefore this wasn't given here.  His wife had the medications 
at home and should be able to bring them to the rehab facility 
on request.

 
Medications on Admission:
Medications per family (although they are very unsure)
Niacin 
Cholesterol medication 
aspirin
 
Discharge Medications:
1. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. heparin (porcine) 5,000 unit/mL Solution Sig: 5,000 units 
Injection TID (3 times a day).  
3. white petrolatum-mineral oil 56.8-42.5 % Ointment Sig: One 
(1) Appl Ophthalmic PRN (as needed) as needed for dry eyes.  
4. chlorhexidine gluconate 0.12 % Mouthwash Sig: Fifteen (15) ML 
Mucous membrane BID (2 times a day).  
5. senna 8.8 mg/5 mL Syrup Sig: One (1) Tablet PO BID (2 times a 
day).  
6. docusate sodium 50 mg/5 mL Liquid Sig: One Hundred (100) mg 
PO BID (2 times a day).  
7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
8. acetaminophen 650 mg/20.3 mL Solution Sig: Six Hundred Fifty 
(650) mg PO Q6H (every 6 hours) as needed for pain/fever .  
9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
11. vancomycin in D5W 1 gram/200 mL Piggyback Sig: 1,000 mg 
Intravenous Q 12H (Every 12 Hours): Day 1 = ___.  
12. cefepime 2 gram Recon Soln Sig: Two (2) grams Injection Q8H 
(every 8 hours): Day 1 = ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Primary: Cerebral hemorrhage
Secondary: HTN, hyperlipidemia, CAD s/p MI

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

NEURO EXAM: L pupil 5mm and minimally reactive ___ surgery), R 
pupil reacts 3->2mm, opens eyes spont, moves LLE and LUE 
spontaneously, and very occ. withdrawas RUE and RLE to noxious 
stim.

 
Discharge Instructions:
Dear Mr. ___,
You were seen in the hospital for a bleed in your brain.  While 
you were here, you were stabilized medically.  Your course was 
complicated by a pneumonia, for which you were started on 
antibiotics.  We were not completely sure of what medications 
you were on as an outpatient, and your family and friends were 
unable to tell us.

We made the following changes to your medications:
1) We STOPPED your NIACIN.  Your family was not sure you were on 
this, so we did not start it here.
2) We STARTED you on LISINOPRUL 20mg once a day.
3) We STARTED you on SUBCUTANEOUS HEPARIN 5,000 units three 
times a day to prevent DVTs
4) We STARTED you on ARTIFICIAL TEARS as needed for dry eyes
5) We STARTED you on CLORHEXIDINE GLUCONATE 15mL twice a day  
6) We STARTED you on SENNA twice a day.
7) We STARTED you on DOCUSATE 100mg twice a day.
8) We STARTED you on BISACODYL 10mg once a day. 
9) We STARTED you on TYLENOL ___ every 6 hours as needed for 
pain/fever.
10) We STARTED you on ASPIRIN 81mg once a day. 
11) We STARTED you on a HEPARIN FLUSH for your PICC.  Once you 
no longer need your PICC you won't need this medication. 
12) We STARTED you on VANCOMYCIN 1,000mg twice a day for a total 
of 14 days, to finish on ___.
13) We STARTED you on CEFEPIME 2 grams every 8 hours for a total 
of 14 days to finish on ___.  

If you experience any of the below listed Danger Signs, please 
contact your doctor or go to the nearest Emergency Room, or have 
your rehab facility transport you to an emergency room.

It was a pleasure taking care of you on this hospitalization.
 
Followup Instructions:
___